US04205173
Step 4. 2-[Benzyl-(2-[4-hydroxy-4-phenylpiperidyl]ethyl)amino]benzamide hydrochloride.
A mixture of 19.5 g 2-[Benzyl(2-chloroethyl)amino]benzamide hydrochloride, 15.75 g powdered anhydrous Na2CO3, 10.6 g 4-hydroxy-4-phenylpiperidine and 250 ml butanol was refluxed 20 hours, cooled and an equal volume of chloroform added. The mixture was filtered and the filtrate concentrated on the rotovap to dryness. The residue was dissolved in 500 ml ether, a little dry ice added, the mixture filtered and concentrated to dryness. The residue in 300 ml ether was treated with dry HC1 and filtered to give 15 g product.

reactant | 2-[Benzyl(2-chloroethyl)amino]benzamide hydrochloride | 19.5 g | Cl.C(C1=CC=CC=C1)N(C1=C(C(=O)N)C=CC=C1)CCCl
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-hydroxy-4-phenylpiperidine | 10.6 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | butanol | 250 ml | C(CCC)O | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[Benzyl-(2-[4-hydroxy-4-phenylpiperidyl]ethyl)amino]benzamide hydrochloride | 15 g | Cl.C(C1=CC=CC=C1)N(C1=C(C(=O)N)C=CC=C1)CCN1CCC(CC1)(C1=CC=CC=C1)O | InChI=1S/C27H31N3O2.ClH/c28-26(31)24-13-7-8-14-25(24)30(21-22-9-3-1-4-10-22)20-19-29-17-15-27(32,16-18-29)23-11-5-2-6-12-23;/h1-14,32H,15-21H2,(H2,28,31);1H
